* C:\users\alecce\Scrivania\Test_TiePie\repo\pyTiePie\utils\Spice_Circuit\RC_Difference_LTSpice.asc
R1 out 0 {R}
C1 in out {C}
V1 in 0 SINE(0 10 55k)
R22 out2 0 {R}
C22 N001 out2 {Ceq}
V2 N001 0 SINE(0 10 55k)
;.ac dec 100u 1 100k
;.tran 0 54.545454u 18.181818u
;.param C=1p
.tran 0 181.81818u 54.545454u
.meas TRAN VMAX MAX v(out) FROM 10us TO 100us
.meas TRAN VMAX2 MAX v(out2) FROM 10us TO 100us
.meas TRAN Vdiff PARAM VMAX2-VMAX
.step param C 1p 10p 1p
;.param dC=1p/100
.param R=2893726.238034461
;.param dC table(C,1,0.01p,2,0.001,3,0.0001)
.step param dC 100 1000 100
.param Ceq={{C} +{C}/{dC}}
.backanno
.end
